US08471004B2
(S)-2-[Benzyloxycarbonyl-(2-oxo-propyl)-amino]-propionic acid methyl ester
To a solution of L-alanine methyl ester hydrochloride (6.00 g, 43.0 mmol) in MeOH (120 mL) were added at 0° C. methacrolein (4.12 g, 56 mmol), magnesium sulfate (46.6 g, 387 mmol), and sodium cyanoborohydride (3.70 g, 56 mmol). The ice bath was removed, then after 16 h the excess reagent was destroyed by careful addition of sat. aq. sodium hydrogencarbonate solution at 0° C. The reaction mixture was partitioned between sat. aq. sodium hydrogencarbonate solution and EtOAc. The organic layer was washed with brine, dried (MgSO4), filtered, and evaporated to afford a 1:1 mixture of (S)-2-(2-methyl-allylamino)-propionic acid methyl ester and (S)-2-isobutylamino-propionic acid methyl ester title compound (5.4 g). This was reacted with benzyl chloroformate in analogy with intermediate 1B, leading to a mixture of (S)-2-[benzyloxycarbonyl-(2-methyl-allyl)-amino]-propionic acid methyl ester and (S)-2-(benzyloxycarbonyl-isobutyl-amino)-propionic acid methyl ester (9.8 g). This was suspended in acetone (60 mL) and water (60 mL), then sodium periodate (13.8 g, 64 mmol) and osmium tetroxide solution (2.5% in tert-butylalcohol, 2.2 mL, 0.43 mmol) were added at 0° C. The ice bath was removed, then after 16 h the reaction mixture was partitioned between EtOAc and water. The organic layer was dried over magnesium sulfate, filtered, and evaporated. Chromatography (SiO2; heptane-EtOAc gradient) produced the title compound (1.88 g, 14%). Colourless oil, MS: 294.1 (M+H)+.

reactant | benzyl chloroformate | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | (S)-2-[benzyloxycarbonyl-(2-methyl-allyl)-amino]-propionic acid methyl ester | COC([C@H](C)N(CC(=C)C)C(=O)OCC1=CC=CC=C1)=O | C16H21NO4
reactant | (S)-2-(benzyloxycarbonyl-isobutyl-amino)-propionic acid methyl ester | 9.8 g | COC([C@H](C)N(CC(C)C)C(=O)OCC1=CC=CC=C1)=O | C16H23NO4
reactant | sodium periodate | 64 mmol, 13.8 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | acetone | 60 mL | CC(=O)C | C3H6O
solvent | water | 60 mL | O | H2O
catalyst | osmium tetroxide | 0.43 mmol, 2.2 mL | [Os](=O)(=O)(=O)=O
product | (S)-2-[Benzyloxycarbonyl-(2-oxo-propyl)-amino]-propionic acid methyl ester | 1.88 g, 14% | COC([C@H](C)N(CC(C)=O)C(=O)OCC1=CC=CC=C1)=O | C15H19NO5
